US09120749B2
tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with tert-butyl piperidin-3-ylcarbamate (695 mg, 3.5 mmol) followed by reduction to afford the desired product (847 mg, 93%) as a purple solid: ESI MS m/z 293 [C15H24N4O2+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl piperidin-3-ylcarbamate | 3.5 mmol, 695 mg | N1CC(CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate | 847 mg, 93% | NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
